US05258407
Methyl 2-(2,4-di-tert-pentylphenoxy)-5-methoxymethylbenzoate
To a solution of sodium hydride (1.2 g, 0.05 mol) in pyridine (60 mL), was added a solution of 2,4-di-tert-pentylphenol (12.9 g, 0.055 mol) in pyridine (20 mL) with stirring. Gas evolution ceased in approximately 1.5 hr at which time methyl 2-bromo-5-methoxylbenzoate was added. Copper (I) chloride (1.24 g, 0.0126 mol) was added and the mixture heated to reflux for 8 hours. The reaction mixture was diluted with diethyl ether (100 mL) and washed with 3N HCl (3×50 mL) and then washed with saturated sodium bicarbonate (1×50 mL). The organic extracts were dried over sodium sulfate, filtered and concentrated to give a dark oil. Chromatography on silica gel with 1:1 heptane:ethyl acetate yielded the pure product as a viscous oil in 90% yield. NMR and mass spectral analysis were consistent with proposed structure.

reactant | sodium hydride | 0.05 mol, 1.2 g | [H-].[Na+]
reactant | 2,4-di-tert-pentylphenol | 0.055 mol, 12.9 g | C(C)(C)(CC)C1=C(C=CC(=C1)C(C)(C)CC)O | C16H26O
reactant | methyl 2-bromo-5-methoxylbenzoate | BrC1=C(C(=O)OC)C=C(C=C1)OC | C9H9BrO3
reactant | heptane | CCCCCCC | C7H16
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
catalyst | Copper (I) chloride | 0.0126 mol, 1.24 g | [Cu]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(2,4-di-tert-pentylphenoxy)-5-methoxymethylbenzoate | 90% yield | C(C)(C)(CC)C1=C(OC2=C(C(=O)OC)C=C(C=C2)COC)C=CC(=C1)C(C)(C)CC | C26H36O4
